US08957078B2
To a solution of 3-amino-4,4,4-trichloro-2-cyano-N-(2-methyl-3-phenyl-imidazol-4-yl)but-2-enamide (150 mg, 0.39 mmol) in NMP (1.5 mL) was added hydrazine hydrate (0.032 mL, 1.02 mmol) and the mixture heated to 85° C. for 3 h. The reaction was allowed to cool to RT and concentrated in vacuo to give 3,5-diamino-N-(2-methyl-1-phenyl-1H-imidazol-5-yl)-1H-pyrazole-4-carboxamide as an orange oil. (116 mg, 100%). MS (ES+) 298.2.

reactant | 3-amino-4,4,4-trichloro-2-cyano-N-(2-methyl-3-phenyl-imidazol-4-yl)but-2-enamide | 0.39 mmol, 150 mg | NC(=C(C(=O)NC=1N(C(=NC1)C)C1=CC=CC=C1)C#N)C(Cl)(Cl)Cl | C15H12Cl3N5O
reactant | hydrazine hydrate | 1.02 mmol, 0.032 mL | O.NN
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | 3,5-diamino-N-(2-methyl-1-phenyl-1H-imidazol-5-yl)-1H-pyrazole-4-carboxamide | NC1=NNC(=C1C(=O)NC1=CN=C(N1C1=CC=CC=C1)C)N | C14H15N7O
